US08470738B2
4-(4-Chloro-2,6-diethylphenyl)-5-hydroxy-2,6-dimethyl-3(2H)-pyridazinone (compound I-a-2)
A solution of 0.55 g of potassium tert-butoxide in 20 mL of tetrahydrofuran was stirred at 36 to 38° C. under nitrogen atmosphere. To the solution was added dropwise a solution of 0.79 g of ethyl 2-[2-(4-chloro-2,6-diethylphenylacetyl)-2-methylhydrazono]propanoate (compound VI-2) in 15 mL of toluene over about 20 minutes. The mixture was further stirred at the same temperature for 10 minutes. Then, the reaction mixture was concentrated under reduced pressure. To the residue was added 20 mL of ice water, followed by extraction with tert-butyl methyl ether (20 mL×2). An aqueous layer was acidified by an addition of 0.6 g of 35% hydrochloric acid, followed by extraction with ethyl acetate (20 mL×2). The ethyl acetate extracts were combined, washed with an aqueous saturated sodium chloride solution (20 mL×2), dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel chromatography (ethyl acetate:hexane=1:4) to give 0.1 g of a solid. The solid was washed with an ethyl acetate-hexane mixture solvent (1:10) and air dried to give 0.07 g of the title compound as a white powder.

reactant | potassium tert-butoxide | 0.55 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-[2-(4-chloro-2,6-diethylphenylacetyl)-2-methylhydrazono]propanoate | 0.79 g | ClC1=CC(=C(C(=C1)CC)CC(=O)N(N=C(C(=O)OCC)C)C)CC | C18H25ClN2O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chloro-2,6-diethylphenyl)-5-hydroxy-2,6-dimethyl-3(2H)-pyridazinone | 0.1 g | ClC1=CC(=C(C(=C1)CC)C=1C(N(N=C(C1O)C)C)=O)CC | C16H19ClN2O2
